US06692658B2
Into a reaction vessel, 3.29 g (22.5 mmol) of 2-hexyloxyethanol and 5.33 g (67.5 mmol) of pyridine were charged, and 4.72 g (24.7 mmol) of p-toluenesulfonic acid chloride was added thereto in an ice bath, which were then stirred for 1 hour and thereafter further stirred at room temperature for 3 hours. After the reaction was completed, 3N HCl was added to make the reaction mixture acidic, followed by extraction with toluene twice. The extract obtained was washed with water, and thereafter sodium sulfuric anhydride was added to effect drying. After the solvent was evaporated off, the resultant mixture was purified by silica gel chromatography (eluting solvent: toluene/ethyl acetate=10/1) to obtain 6.45 g (21.5 mmol) of 2-hexyloxyethyl p-toluenesulfonate. Yield: 95%.

reactant | 2-hexyloxyethanol | 22.5 mmol, 3.29 g | C(CCCCC)OCCO | C8H18O2
reactant | pyridine | 67.5 mmol, 5.33 g | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonic acid chloride | 24.7 mmol, 4.72 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | 3N | Cl | ClH
product | 2-hexyloxyethyl p-toluenesulfonate | 21.5 mmol, 6.45 g, Yield: 95% | C1(=CC=C(C=C1)S(=O)(=O)OCCOCCCCCC)C | C15H24O4S
